US05495046
To 604 mg of the crude 4-chloro-2-(3-chloropropyl)-1-(2-phenylethoxy)benzene, was added 5 ml of di-n-propylamine and the resulting mixture was stirred at 120° C. for 39 hours. After diluting with methylene chloride, the mixture was successively washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After evaporation of the solvent under reduced pressure, the obtained residue was subjected to silica gel column chromatography (developing solvent; ethyl acetate:n-hexane =1:5) to give 0.50 g of N,N-di-n-propyl-3-[5-chloro-2-(2-phenylethoxy)phenyl]propylamine.

reactant | 4-chloro-2-(3-chloropropyl)-1-(2-phenylethoxy)benzene | 604 mg | ClC1=CC(=C(C=C1)OCCC1=CC=CC=C1)CCCCl | C17H18Cl2O
reactant | di-n-propylamine | 5 ml | C(CC)NCCC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N,N-di-n-propyl-3-[5-chloro-2-(2-phenylethoxy)phenyl]propylamine | 0.50 g | C(CC)N(CCC)CCCC1=C(C=CC(=C1)Cl)OCCC1=CC=CC=C1 | C23H32ClNO
